US04534979
7-(4-Benzyloxyphenyl)-5-Methyl-Hepta-2,4,6-Trienoic Acid
A mixture of methyl 7-(4-benzyloxyphenyl)-5-methyl-hepta-2,4,6-trienoate (3.2 g, 9.7 mmol) and potassium hydroxide (1.1 g, 19.4 mmol) in 200 ml of ethanol and 10 ml of water was stirred under nitrogen at room temperature for 48 hrs. The mixture was then concentrated on rotary evaporator and water (250 ml) was added. The solution was extracted with 30 ml of ethyl acetate; the aqueous layer was acidified with 10N HCl to pH 3. The yellow precipitate formed was extracted into ethyl acetate, washed with 30 ml of water, dried (magnesium sulfate) and concentrated on rotary evaporator to give a yellow powder, which was triturated with ethyl acetate to give 1.7 g of the product as yellow powder, mp: 210° C. (sublimed).

reactant | methyl 7-(4-benzyloxyphenyl)-5-methyl-hepta-2,4,6-trienoate | 9.7 mmol, 3.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(=CC=CC(=O)OC)C | C22H22O3
reactant | potassium hydroxide | 19.4 mmol, 1.1 g | [OH-].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 7-(4-Benzyloxyphenyl)-5-Methyl-Hepta-2,4,6-Trienoic Acid | 1.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(=CC=CC(=O)O)C | C21H20O3
